US07109216B2
Part B: Ethyl 2-(4-chlorophenyl)-1-(2,4-dichlorophenyl)-5-methyl-1H-imidazole-4-carboxylate (0.250 gram, 0.61 mmol) and LiOH (0.052 gram, 2.17 mmol) are dissolved in H2O/THF (1:1 (v/v); 50 mL) and stirred at 50° C. for one hour. The mixture is concentrated to give crude 2-(4-chlorophenyl)-1-(2,4-dichlorophenyl)-5-methyl-1H-imidazole-4-carboxylic acid. To this mixture is added SOCl2 (50 mL) and the resulting mixture is heated at reflux temperature for 1 hour. The mixture is concentrated to give 2-(4-chlorophenyl)-1-(2,4-dichlorophenyl)-5-methyl-1H-imidazole-4-carbonyl chloride.

reactant | Ethyl 2-(4-chlorophenyl)-1-(2,4-dichlorophenyl)-5-methyl-1H-imidazole-4-carboxylate | 0.61 mmol, 0.250 gram | ClC1=CC=C(C=C1)C=1N(C(=C(N1)C(=O)OCC)C)C1=C(C=C(C=C1)Cl)Cl | C19H15Cl3N2O2
reactant | LiOH | 2.17 mmol, 0.052 gram | [Li+].[OH-]
reactant | SOCl2 | 50 mL | O=S(Cl)Cl | Cl2OS
solvent | H2O THF | 50 mL | O.C1CCOC1
product | 2-(4-chlorophenyl)-1-(2,4-dichlorophenyl)-5-methyl-1H-imidazole-4-carbonyl chloride | ClC1=CC=C(C=C1)C=1N(C(=C(N1)C(=O)Cl)C)C1=C(C=C(C=C1)Cl)Cl | C17H10Cl4N2O
